US03944679
Likewise, a mixture of 21.6 g. (0.2 mol) of p-cresol and 17.2 g. (0.2 mol) of γ-butyrolactone is added into a mixture of 79.8 g. (0.6 mol) of anhydrous aluminium chloride and 15.0 g. (0.26 mol) of sodium chloride which mixture has been molten at 140°C, and the resultant mixture is heated at a temperature of 140°-200°C for about 3 minutes. After cooling, the reaction mixture is poured into a hydrochloric acid-ice and the resulting acidic solution is stirred with benzene. The benzene layer is taken up and dried with anhydrous sodium sulfate. The solvent is removed by distillation, and the residue is further subjected to vacuum distillation, whereby yellowish liquid is distilled out at 95°-105°C/2mmHg, which liquid is solidified on cooling. Upon recrystallization from n-hexane after decolorization with active carbon, 14.9 g. of whitish-purple crystals of 3,4-dimethyl-7-hydroxyindan-1-one having a melting point of 52°-53°C is obtained.

reactant | p-cresol | 0.2 mol | C1=CC(=CC=C1O)C | C7H8O
reactant | γ-butyrolactone | 0.2 mol | C1(CCCO1)=O | C4H6O2
reactant | aluminium chloride | 0.6 mol | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium chloride | 0.26 mol | [Cl-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3,4-dimethyl-7-hydroxyindan-1-one | CC1CC(C2=C(C=CC(=C12)C)O)=O | C11H12O2
